US08124606B2
Compound 76A: (S)-ethyl 6-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinate:
(S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one (330 mg, 1.415 mmol) was suspended in propionitrile (3.5 mL) and (cyanomethyl)trimethylphosphonium iodide (413.0 mg, 1.70 mmol) was added followed by N-ethyl-N-isopropylpropan-2-amine (741 ul, 4.2 mmol). To the stirred mixture was then added ethyl 6-(piperazin-1-yl)nicotinate (366 mg, 1.56 mmol). The reaction was heated to 90° C. with stirring for 16 h. The reaction was then cooled to room temperature, diluted with EtOH (8 ml) and water (1 mL), then filtered. The precipitate was filtered off and dried in vacuum to afford the title compound (567 mg, 89%) as a brown solid. 1H NMR (DMSO-d6) δ (ppm): 10.48 (s, 1H), 8.63 (d, J=2.0 Hz, 1H), 7.93 (dd, J=9.1, 2.3 Hz, 1H), 7.65 (d, J=1.8 Hz, 1H), 6.97 (d, J=2.0 Hz, 1H), 6.85 (d, J=9.1 Hz, 1H), 4.44-4.56 (m, 1H), 4.24 (q, J=7.1 Hz, 2H), 3.84 (dd, J=11.4, 2.8 Hz, 1H), 3.53-3.73 (m, 4H), 3.35 (s, 2H), 2.60 (td, J=12.6, 2.5 Hz, 1H), 2.41 (t, J=4.8 Hz, 4H), 2.05 (br. s., 1H), 1.85 (d, J=12.4 Hz, 1H), 1.64 (d, J=12.4 Hz, 1H), 1.34-1.57 (m, 3H), 1.28 (t, 3H) [M+H] calc'd for C24H30N6O3, 451. found, 451

reactant | (S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 1.415 mmol, 330 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C12H15N3O2
reactant | (cyanomethyl)trimethylphosphonium iodide | 1.70 mmol, 413.0 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 4.2 mmol, 741 ul | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl 6-(piperazin-1-yl)nicotinate | 1.56 mmol, 366 mg | N1(CCNCC1)C1=NC=C(C(=O)OCC)C=C1 | C12H17N3O2
solvent | propionitrile | 3.5 mL | C(CC)#N | C3H5N
solvent | EtOH | 8 ml | CCO | C2H6O
solvent | water | 1 mL | O | H2O
product | (S)-ethyl 6-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinate | 567 mg, 89% | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=NC=C(C(=O)OCC)C=C3)CCCC2 | C24H30N6O3
